* File: nem_ohmux_invd1_10i_8b.pex.netlist
* Created: Sun May 23 20:48:04 2021
* Program "Calibre xRC"
* Version "v2019.1_18.11"
* 
.include "nem_ohmux_invd1_10i_8b.pex.netlist.pex"
.subckt nem_ohmux_invd1_10i_8b_pex  I0_0 I0_1 I0_2 I0_3 I0_4 I0_5 I0_6 I0_7 I1_0 I1_1 I1_2 I1_3 I1_4 I1_5 I1_6 I1_7 I2_0 I2_1 I2_2 I2_3 I2_4 I2_5 I2_6 I2_7 I3_0 I3_1 I3_2 I3_3 I3_4 I3_5 I3_6 I3_7 I4_0 I4_1 I4_2 I4_3 I4_4 I4_5 I4_6 I4_7 I5_0 I5_1 I5_2 I5_3 I5_4 I5_5 I5_6 I5_7 I6_0 I6_1 I6_2 I6_3 I6_4 I6_5 I6_6 I6_7 I7_0 I7_1 I7_2 I7_3 I7_4 I7_5 I7_6 I7_7 I8_0 I8_1 I8_2 I8_3 I8_4 I8_5 I8_6 I8_7 I9_0 I9_1 I9_2 I9_3 I9_4 I9_5 I9_6 I9_7 S0 S1 S2 S3 S4 S5 S6 S7 S8 S9 Z_0 Z_1 Z_2 Z_3 Z_4 Z_5 Z_6 Z_7
* 
c_10 Z_5 0 0.0538535f
c_17 Z_7 0 0.0517483f
c_24 Z_4 0 0.0742043f
c_29 Z_0 0 0.0231187f
c_39 Z_6 0 0.0260119f
c_47 Z_2 0 0.0206387f
c_56 Z_3 0 0.0558701f
c_63 Z_1 0 0.0512833f
c_69 I1_6 0 0.0206397f
c_74 I0_6 0 0.0214257f
c_80 I1_7 0 0.0210174f
c_88 I0_5 0 0.0181843f
c_95 I1_5 0 0.0194508f
c_101 I0_7 0 0.0215069f
c_108 S0 0 0.016205f
c_115 I1_4 0 0.0158282f
c_121 I0_0 0 0.0208815f
c_127 S1 0 0.0184901f
c_131 I1_0 0 0.022302f
c_135 I0_4 0 0.0222044f
c_143 I1_1 0 0.0187648f
c_152 I0_3 0 0.0161926f
c_161 I1_3 0 0.0169707f
c_168 I0_1 0 0.020456f
c_174 I1_2 0 0.0206009f
c_181 I0_2 0 0.0196472f
c_189 I3_6 0 0.0153235f
c_196 I2_6 0 0.0161334f
c_204 I3_7 0 0.0156663f
c_214 I2_5 0 0.0128374f
c_225 I3_5 0 0.014471f
c_235 I2_7 0 0.0160884f
c_244 S2 0 0.0131042f
c_252 I3_4 0 0.0107706f
c_258 I2_0 0 0.0157158f
c_266 S3 0 0.0153571f
c_272 I3_0 0 0.0171437f
c_279 I2_4 0 0.0166003f
c_288 I3_1 0 0.0155772f
c_299 I2_3 0 0.0126171f
c_309 I3_3 0 0.0122389f
c_317 I2_1 0 0.0159137f
c_324 I3_2 0 0.0165214f
c_332 I2_2 0 0.0155923f
c_341 I5_6 0 0.0152681f
c_350 I4_6 0 0.0128222f
c_358 I5_7 0 0.0160377f
c_369 I4_5 0 0.010913f
c_380 I4_7 0 0.0129073f
c_389 I5_5 0 0.0136345f
c_397 I5_4 0 0.0105685f
c_403 I4_0 0 0.0133913f
c_412 S5 0 0.0147458f
c_423 S4 0 0.0106852f
c_430 I5_0 0 0.0171539f
c_440 I4_4 0 0.010441f
c_449 I5_1 0 0.0166021f
c_461 I4_3 0 0.00846684f
c_472 I5_3 0 0.0134686f
c_481 I4_1 0 0.0159993f
c_488 I5_2 0 0.0167057f
c_496 I4_2 0 0.0160662f
c_504 I7_6 0 0.0153338f
c_511 I6_6 0 0.0160922f
c_519 I7_7 0 0.0156793f
c_529 I6_5 0 0.0128374f
c_540 I7_5 0 0.014466f
c_550 I6_7 0 0.0160006f
c_559 S6 0 0.0130229f
c_568 I7_4 0 0.0109131f
c_575 I6_0 0 0.0157594f
c_583 S7 0 0.0153599f
c_589 I7_0 0 0.0171344f
c_596 I6_4 0 0.0169445f
c_605 I7_1 0 0.0155966f
c_615 I6_3 0 0.0130241f
c_625 I7_3 0 0.0124661f
c_633 I6_1 0 0.0159179f
c_640 I7_2 0 0.0165121f
c_648 I6_2 0 0.0155585f
c_655 I9_6 0 0.018354f
c_661 I8_6 0 0.0191621f
c_668 I9_7 0 0.0193008f
c_677 I8_5 0 0.0164679f
c_686 I9_5 0 0.018449f
c_694 I8_7 0 0.0205144f
c_701 S8 0 0.0172973f
c_707 I9_4 0 0.0161381f
c_712 I8_0 0 0.0211977f
c_718 S9 0 0.019613f
c_723 I9_0 0 0.021828f
c_728 I8_4 0 0.0218311f
c_734 I9_1 0 0.0209549f
c_741 I8_3 0 0.0184054f
c_749 I9_3 0 0.0176493f
c_755 I8_1 0 0.0211414f
c_760 I9_2 0 0.0217635f
c_766 I8_2 0 0.0208213f
*
.include "nem_ohmux_invd1_10i_8b.pex.netlist.nem_ohmux_invd1_10i_8b.pxi"
*
.ends
*
*
